US06939885B2
Synthesis of N-[4-Chloro-2-(pyrimidine-2-carbonyl)-phenyl]-4-oxazol-5-yl-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 116 mg of (2-Amino-5-chloro-phenyl)-pyrimidin-2-yl-methanone and 122 mg of 4-oxazol-5-yl-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 7.43 (s, 1H), 7.45 (m, 1H), 7.50 (m, 1H), 7.55 (m, 1H), 7.64 (m, 2H), 7.66 (d, 1H, J=8.8 Hz), 7.86 (m, 2H), 7.97 (s, 1H), 8.86 (d, 2H), 10.63 (s, 1H). MS: m/z 441.9 (M++1).

reactant | (2-Amino-5-chloro-phenyl)-pyrimidin-2-yl-methanone | 116 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=NC=CC=N1 | C11H8ClN3O
reactant | 4-oxazol-5-yl-benzenesulfonyl chloride | 122 mg | O1C=NC=C1C1=CC=C(C=C1)S(=O)(=O)Cl | C9H6ClNO3S
product | N-[4-Chloro-2-(pyrimidine-2-carbonyl)-phenyl]-4-oxazol-5-yl-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C1=CN=CO1)C(=O)C1=NC=CC=N1 | C20H13ClN4O4S
